### PR TITLE
functoriality of GraphQuotient

### PR DESCRIPTION
**Pull request by Alizter**
We prove the standard functoriality results for GraphQuotient. These can be used later to help derive the flattening lemmas for Coeq and Pushout.

### CODE REVIEW

File: theories/Colimits/GraphQuotient.v [hunk 1]
```diff
@@ -222,3 +222,129 @@ Section Flattening.
...
+  exact r.
+Defined.
+
+Lemma functor_gq_idmap {A : Type} {R : A -> A -> Type}
+  : functor_gq (A:=A) (B:=A) (S:=R) idmap (fun a b r => r) == idmap.
+Proof.
+  snrapply GraphQuotient_ind.
+  1: reflexivity.
+  intros a b r.
+  lhs nrapply (transport_paths_FlFr (gqglue r)).
```
Comment (jdchristensen) [inline theories/Colimits/GraphQuotient.v:246]: You should consider `transport_FlFr'` (and `transport_FFlr'`) which simplify the path algebra slightly.  They can often be combined with `apply equiv_p1_1q` or `apply equiv_1p_q1`.

(This is also one of those places where we need a `Flr` version, to avoid the `ap_idmap` at the end, but I'm not sure how many of these lemmas it's worth generating!)

Comment (Alizter) [reply theories/Colimits/GraphQuotient.v:246]: I think its fine to generate those lemmas, but I would perhaps prove them in terms of each other so that we can better understand how they themselves compute. There are a few places where this can be necessary.

File: theories/Colimits/GraphQuotient.v [hunk 2]
```diff
@@ -222,3 +222,129 @@ Section Flattening.
...
+    apply ap.
+    apply p.
+  - intros a b r.
+    simpl.
+    lhs nrapply (transport_paths_FlFr (gqglue r)).  
+    lhs nrapply concat_pp_p.
+    apply moveR_Vp.
+    lhs nrapply ap.
+    1: apply GraphQuotient_rec_beta_gqglue.
+    rhs nrapply (ap (fun x => x @ _)).
```
Comment (jdchristensen) [inline theories/Colimits/GraphQuotient.v:307]: I'd prefer something like `lhs nrefine (1 @@ _).` and `lhs nrefine (_ @@ 1).` for the first and third lines.

File: theories/Colimits/GraphQuotient.v (hunk 1 above)
Comment (Alizter) [reply theories/Colimits/GraphQuotient.v:246]: I've tried using the `'` versions but I don't quite see how it simplifies the path algebra so I have left it.

File: theories/Colimits/GraphQuotient.v [hunk 3]
```diff
@@ -222,3 +222,129 @@ Section Flattening.
...
+    lhs nrapply (transport_paths_FlFr (gqglue r)).  
+    lhs nrapply concat_pp_p.
+    apply moveR_Vp.
+    lhs nrefine (1 @@ _).
+    1: apply GraphQuotient_rec_beta_gqglue.
+    rhs nrefine (_ @@ 1).
+    2: apply GraphQuotient_rec_beta_gqglue.
+    apply moveR_pM.
+    rapply (transport011_helper S).
+    apply q.
```
Comment (jdchristensen) [inline theories/Colimits/GraphQuotient.v:311]: This can be done with the basic lemmas about transport011.  E.g. here is one way (with some rewrites that are easy to remove):
```suggestion
    destruct (q a b r).
    rewrite ap_transport011.
    rewrite transport011_paths.
    lhs nrapply concat_p_pp.
    exact (concat_p_Vp _ _ @@ 1).
```

File: theories/Colimits/GraphQuotient.v [hunk 4]
```diff
@@ -222,3 +222,129 @@ Section Flattening.
...
+  snrapply GraphQuotient_ind.
+  1: reflexivity.
+  intros a b r.
+  lhs nrapply (transport_paths_FlFr (gqglue r)).
+  apply moveR_Mp.
+  rhs nrapply concat_p1.
+  rhs nrapply inv_Vp.
+  rhs nrapply concat_1p.
+  rhs nrapply GraphQuotient_rec_beta_gqglue.
+  apply ap_idmap.
```
Comment (jdchristensen) [inline theories/Colimits/GraphQuotient.v:252]: 7 lines become 4.  Same for most places that FlFr and FFlr are used.
```suggestion
  nrapply (transport_paths_FlFr' (gqglue r)).
  apply equiv_p1_1q.
  rhs nrapply ap_idmap.
  apply GraphQuotient_rec_beta_gqglue.
```

**Review by jdchristensen — APPROVED** [review]

File: theories/Colimits/GraphQuotient.v (hunk 4 above)
Comment (Alizter) [reply theories/Colimits/GraphQuotient.v:252]: Oh I see now. I wasn't supplying the path so I was getting confused why it was generating more hyps.

Comment (Alizter) [reply theories/Colimits/GraphQuotient.v:252]: Wait actually that wasn't the problem. I was using `lhs`. :facepalm:

**Comment by Alizter** [comment]
@jdchristensen I've simplified some more proofs now.

File: theories/Colimits/GraphQuotient.v [hunk 5]
```diff
@@ -307,18 +287,18 @@ Proof.
...
     apply p.
-  - intros a b r.
-    simpl.
-    lhs nrapply (transport_paths_FlFr (gqglue r)).  
-    lhs nrapply concat_pp_p.
-    apply moveR_Vp.
-    lhs nrefine (1 @@ _).
-    1: apply GraphQuotient_rec_beta_gqglue.
-    rhs nrefine (_ @@ 1).
+  - intros a b s.
```
Comment (Alizter) [inline theories/Colimits/GraphQuotient.v:290]: Seems that this didn't actually simplify anything just shuffled things around. The new proof is not so bad though.
